US07906517B2
2-(Butyl-ethyl-amino)-5-trifluoromethyl-benzaldehyde (1.72 g) is dissolved in a mixed solvent of tert-butanol (8 ml) and water (2 ml), and thereto are added 2-methyl-2-butene (4 ml), sodium dihydrogenphosphate dihydrate (1.37 g) and sodium chlorite (1.82 g) under ice-cooling, and the mixture is stirred for 2 hours. Thereto are added ethyl acetate and a 1N-hydrochloric acid and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→9:1) to give 2-(butyl-ethyl-amino)-5-trifluoromethyl-benzoic acid (1.29 mg). MS (m/z): 290 [M+H]+

reactant | 2-(Butyl-ethyl-amino)-5-trifluoromethyl-benzaldehyde | 1.72 g | C(CCC)N(C1=C(C=O)C=C(C=C1)C(F)(F)F)CC | C14H18F3NO
reactant | 2-methyl-2-butene | 4 ml | CC(C)=CC | C5H10
reactant | sodium dihydrogenphosphate dihydrate | 1.37 g | O.O.P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 1.82 g | Cl(=O)[O-].[Na+]
solvent | tert-butanol | 8 ml | C(C)(C)(C)O | C4H10O
solvent | water | 2 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(butyl-ethyl-amino)-5-trifluoromethyl-benzoic acid | 1.29 mg | C(CCC)N(C1=C(C(=O)O)C=C(C=C1)C(F)(F)F)CC | C14H18F3NO2
